US06271225B1
In the same manner as in Example 1 and using ethyl 2-(2-amino-4-methylanilino)benzo[b]thiophene-3-carboxylate (3.7 g), 1-methylpiperazine (19 ml), anisole (60 ml) and titanium tetrachloride (3.0 ml), 9-methyl-12-(4-methylpiperazin-1-yl)-6H-[1]benzothieno[2,3-b][1,5]benzodiazepine (1.18 g) was obtained.

reactant | ethyl 2-(2-amino-4-methylanilino)benzo[b]thiophene-3-carboxylate | 3.7 g | NC1=C(NC2=C(C3=C(S2)C=CC=C3)C(=O)OCC)C=CC(=C1)C | C18H18N2O2S
reactant | 1-methylpiperazine | 19 ml | CN1CCNCC1 | C5H12N2
catalyst | titanium tetrachloride | 3.0 ml | [Ti](Cl)(Cl)(Cl)Cl
solvent | anisole | 60 ml | C1(=CC=CC=C1)OC | C7H8O
product | 9-methyl-12-(4-methylpiperazin-1-yl)-6H-[1]benzothieno[2,3-b][1,5]benzodiazepine | 1.18 g | CC=1C=CC2=C(N=C(C3=C(N2)SC2=C3C=CC=C2)N2CCN(CC2)C)C1 | C21H22N4S
